US06469176B1
Preparation of 2-Methyl-6-nitrobenzaldoxime (Process Step a)—Variant B)
1200 ml of anhydrous DMF are initially charged in a 4 l reaction flask and cooled to −40° C. At this temperature, 336.5 g (4.56 mol) of potassium methoxide (95%) are added with stirring and suspended. A mixture of 300 g (1.92 mol) of 3-nitro-o-xylene (97%) and 274 g (2.52 mol) of n-butyl nitrite (95%) is subsequently added dropwise at −40° C. over a period of 7 hours (if the mixture is cooled appropriately, the duration of this addition can be reduced at will; an extension has hitherto not been examined; temperature variations between −35 and −45° C. can be tolerated). By HPLC, it is checked that the starting material has been converted completely. The reaction discharge is subsequently added with stirring to a mixture of 300 ml of water and 300 ml of glacial acetic acid, at from −5 to 0° C. The reaction mixture is then poured into 6 kg of ice-water and the solid is separated off by filtration (without any problems, the flow resistance has not yet been determined) and washed twice with 500 ml of water each time (caution: the crude product smells strongly). The crude product (HPLC: 96 area %) is purified by suspending the moist solid in 800 ml of toluene for 1.5 h. The solid is filtered off (without any problems, the flow resistance has not yet been determined) and dried in a vacuum drying cabinet at 50° C.

reactant | DMF | 1200 ml | CN(C)C=O | C3H7NO
reactant | potassium methoxide | 4.56 mol, 336.5 g | C[O-].[K+]
reactant | 3-nitro-o-xylene | 1.92 mol, 300 g | [N+](=O)([O-])C1=C(C(=CC=C1)C)C | C8H9NO2
reactant | n-butyl nitrite | 2.52 mol, 274 g | N(=O)OCCCC | C4H9NO2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | 2-Methyl-6-nitrobenzaldoxime | CC1=C(C=NO)C(=CC=C1)[N+](=O)[O-] | C8H8N2O3
